US07238211B2
A) Synthesis of 3-[(6-methoxy-3-nitro-2-pyridyl)methylamino]propane-1,2-diol
4 g (0.0219 mol) of the product 2-chloro-3-nitro-6-methoxypyridine, 50 ml of ethanol and 4.15 ml (0.0438 mol) of 3-methylamino-1,2-dihydroxypropane are placed in a fully equipped round-bottomed flask. The mixture is refluxed for 2 hours with stirring and is then poured onto an ice/water mixture with stirring. The precipitate formed is filtered off by suction and dried under vacuum to constant weight. 4.74 g of yellow powder are obtained, ie a yield of 87.1%.

reactant | 2-chloro-3-nitro-6-methoxypyridine | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | 3-methylamino-1,2-dihydroxypropane | 0.0438 mol, 4.15 ml | CNCC(CO)O | C4H11NO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-[(6-methoxy-3-nitro-2-pyridyl)methylamino]propane-1,2-diol | 4.74 g, yield of 87.1% | COC1=CC=C(C(=N1)CNCC(CO)O)[N+](=O)[O-] | C10H15N3O5
